US08008302B2
Step b) Formation of (2S,3R)-2-hydroxy-3-methylsuccinic acid
Diisopropyl (2S,3R)-2-hydroxy-3-methylsuccinate (3.70 g; 15.93 mmol; 1.0 eq.) was taken in THF (55 mL), cooled to 0° C. and treated with KOH (5.36 g, 96 mmol) in water (18.5 mL). The resulting mixture was stirred at RT for 48 h. THF was removed and the residue was taken in water. The aqueous layer was washed with Et2O (100 mL) and was acidified with an aqueous solution of HCl (1.5 N), then was extracted with EtOAc (continuous extraction during 20 hours). The organic phase was dried over Na2SO4 and then concentrated to give the title product (mixture of diastereoisomers) as pale yellow oil (2.4 g, quant.).

reactant | Diisopropyl (2S,3R)-2-hydroxy-3-methylsuccinate | 15.93 mmol, 3.70 g, 1.0 eq. | O[C@H](C(=O)OC(C)C)[C@H](C(=O)OC(C)C)C | C11H20O5
reactant | KOH | 96 mmol, 5.36 g | [OH-].[K+]
solvent | THF | 55 mL | C1CCOC1 | C4H8O
solvent | water | 18.5 mL | O | H2O
product | (2S,3R)-2-hydroxy-3-methylsuccinic acid | O[C@H](C(=O)O)[C@H](C(=O)O)C | C5H8O5
